Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1]([CH3:2])=[O:3].[CH3:4][N:5]([CH3:6])[CH2:7][CH2:8][n:9]1[cH:10][cH:11][c:12]2[c:13]3[n:14][c:15](-[c:16]4[cH:17][cH:18][c:19]([NH2:20])[cH:21][cH:22]4)[n:23][c:24]([N:25]4[CH2:26][CH2:27][O:28][CH2:29][CH2:30]4)[c:31]3[cH:32][cH:33][c:34]12>>[C:1]([CH3:2])(=[O:3])[NH:20][c:19]1[cH:18][cH:17][c:16](-[c:15]2[n:14][c:13]3[c:12]4[cH:11][cH:10][n:9]([CH2:8][CH2:7][N:5]([CH3:4])[CH3:6])[c:34]4[cH:33][cH:32][c:31]3[c:24]([N:25]3[CH2:26][CH2:27][O:28][CH2:29][CH2:30]3)[n:23]2)[cH:22][cH:21]1,[CH3:4][N:5]([CH3:6])[CH2:7][CH2:8][n:9]1[cH:10][cH:11][c:12]2[c:13]3[n:14][c:15](-[c:16]4[cH:17][cH:18][c:19]([NH2:20])[cH:21][cH:22]4)[n:23][c:24]([N:25]4[CH2:26][CH2:27][O:28][CH2:29][CH2:30]4)[c:31]3[cH:32][cH:33][c:34]12.[Cl:101][C:1]([CH3:2])=[O:3]>>[C:1]([CH3:2])(=[O:3])[NH:20][c:19]1[cH:18][cH:17][c:16](-[c:15]2[n:14][c:13]3[c:12]4[cH:11][cH:10][n:9]([CH2:8][CH2:7][N:5]([CH3:4])[CH3:6])[c:34]4[cH:33][cH:32][c:31]3[c:24]([N:25]3[CH2:26][CH2:27][O:28][CH2:29][CH2:30]3)[n:23]2)[cH:22][cH:21]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(20, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(OCc1ccccc1)[N:1]1[CH2:2][C@H:3]([C:4](=[O:5])[NH:6][c:7]2[cH:8][c:9](-[c:10]3[cH:11][n:12][cH:13][c:14]([NH:15][CH2:16][CH:17]4[CH2:18][CH2:19][O:20][CH2:21][CH2:22]4)[n:23]3)[c:24]([Cl:25])[cH:26][n:27]2)[C@H:28]([F:29])[CH2:30]1>>[NH:1]1[CH2:2][C@H:3]([C:4](=[O:5])[NH:6][c:7]2[cH:8][c:9](-[c:10]3[cH:11][n:12][cH:13][c:14]([NH:15][CH2:16][CH:17]4[CH2:18][CH2:19][O:20][CH2:21][CH2:22]4)[n:23]3)[c:24]([Cl:25])[cH:26][n:27]2)[C@H:28]([F:29])[CH2:30]1,[O:201]=[C:101]([O:202][CH2:203][c:204]1[cH:205][cH:206][cH:207][cH:208][cH:209]1)[N:1]1[CH2:2][C@H:3]([C:4](=[O:5])[NH:6][c:7]2[cH:8][c:9](-[c:10]3[cH:11][n:12][cH:13][c:14]([NH:15][CH2:16][CH:17]4[CH2:18][CH2:19][O:20][CH2:21][CH2:22]4)[n:23]3)[c:24]([Cl:25])[cH:26][n:27]2)[C@H:28]([F:29])[CH2:30]1.[BrH:301]>>[NH:1]1[CH2:2][C@H:3]([C:4](=[O:5])[NH:6][c:7]2[cH:8][c:9](-[c:10]3[cH:11][n:12][cH:13][c:14]([NH:15][CH2:16][CH:17]4[CH2:18][CH2:19][O:20][CH2:21][CH2:22]4)[n:23]3)[c:24]([Cl:25])[cH:26][n:27]2)[C@H:28]([F:29])[CH2:30]1,Cbz_deprotection,"[(201, 301.1), ([301.1, 301], 301), (301, 203), ([203, 202], [202, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([O:2][CH:3]([CH3:4])[CH3:5])=[O:6].[CH3:7][CH:8]1[CH2:9][C:10](=[O:11])[NH:12][N:13]=[C:14]1[c:15]1[cH:16][cH:17][c:18]([NH2:19])[cH:20][cH:21]1>>[C:1]([O:2][CH:3]([CH3:4])[CH3:5])(=[O:6])[NH:19][c:18]1[cH:17][cH:16][c:15]([C:14]2=[N:13][NH:12][C:10](=[O:11])[CH2:9][CH:8]2[CH3:7])[cH:21][cH:20]1,[CH3:7][CH:8]1[CH2:9][C:10](=[O:11])[NH:12][N:13]=[C:14]1[c:15]1[cH:16][cH:17][c:18]([NH2:19])[cH:20][cH:21]1.[Cl:101][C:1]([O:2][CH:3]([CH3:4])[CH3:5])=[O:6]>>[C:1]([O:2][CH:3]([CH3:4])[CH3:5])(=[O:6])[NH:19][c:18]1[cH:17][cH:16][c:15]([C:14]2=[N:13][NH:12][C:10](=[O:11])[CH2:9][CH:8]2[CH3:7])[cH:21][cH:20]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(19, 1), ([1, 6], 6), (6, [6, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[C:3]1([c:4]2[cH:5][cH:6][c:7]3[c:8]([cH:9]2)[O:10][CH2:11][O:12]3)[CH2:13][CH2:14]1.[F:15][C:16]([F:17])([F:18])[c:19]1[cH:20][c:21]([NH:22][c:23]2[cH:24][cH:25][cH:26][cH:27][n:28]2)[cH:29][cH:30][n:31]1>>[C:1](=[O:2])([C:3]1([c:4]2[cH:5][cH:6][c:7]3[c:8]([cH:9]2)[O:10][CH2:11][O:12]3)[CH2:13][CH2:14]1)[N:22]([c:21]1[cH:20][c:19]([C:16]([F:15])([F:17])[F:18])[n:31][cH:30][cH:29]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][n:28]1,[F:15][C:16]([F:17])([F:18])[c:19]1[cH:20][c:21]([NH:22][c:23]2[cH:24][cH:25][cH:26][cH:27][n:28]2)[cH:29][cH:30][n:31]1.[Cl:101][C:1](=[O:2])[C:3]1([c:4]2[cH:5][cH:6][c:7]3[c:8]([cH:9]2)[O:10][CH2:11][O:12]3)[CH2:13][CH2:14]1>>[C:1](=[O:2])([C:3]1([c:4]2[cH:5][cH:6][c:7]3[c:8]([cH:9]2)[O:10][CH2:11][O:12]3)[CH2:13][CH2:14]1)[N:22]([c:21]1[cH:20][c:19]([C:16]([F:15])([F:17])[F:18])[n:31][cH:30][cH:29]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][n:28]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(22, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
